US08034938B2
4-Chloro-3-nitroquinoline (41.0 g, 197 mmol) was added to a mixture of (2R)-2-amino-3-(benzyloxy)propan-1-ol hydrochloride (43.0 g, 197 mmol) and triethylamine (69.0 mL, 494 mmol) dissolved in 985 mL of CH2Cl2 at 0° C. The resulting yellow mixture was stirred for 18 hours at ambient temperature. The solvent was then removed under reduced pressure to afford a yellow solid. The solid was stirred in H2O (100 mL) and filtered to give 57 g of (2R)-3-(benzyloxy)-2-[(3-nitroquinolin-4-yl)amino]propan-1-ol as a bright yellow solid.

reactant | 4-Chloro-3-nitroquinoline | 197 mmol, 41.0 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | (2R)-2-amino-3-(benzyloxy)propan-1-ol hydrochloride | 197 mmol, 43.0 g | Cl.N[C@H](CO)COCC1=CC=CC=C1
reactant | triethylamine | 494 mmol, 69.0 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 985 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 100 mL | O | H2O
product | (2R)-3-(benzyloxy)-2-[(3-nitroquinolin-4-yl)amino]propan-1-ol | 57 g | C(C1=CC=CC=C1)OC[C@@H](CO)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C19H19N3O4
